US06235731B1
4) Synthesis of N-(3-(1-(3-phenylpropan-1-yl)piperidin-4-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride
To a solution of 0.8113 g (1.76 mM) of N-[3-(1-(3-phenylpropan-1-yl)piperidin-4-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added 6 ml (24 mM) of 4N-HCl/methanol at room temperature and the mixture was stirred at room temperature for several minutes. The solvent was then distilled off under reduced pressure, and after addition of diethyl ether to the crystalline residue, the crystal crop was harvested by filtration and rinsed with ethanol and diethyl ether to provide the title compound.

reactant | N-[3-(1-(3-phenylpropan-1-yl)piperidin-4-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.76 mM, 0.8113 g | C1(=CC=CC=C1)CCCN1CCC(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C27H32N4OS
reactant | HCl methanol | Cl.CO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(3-(1-(3-phenylpropan-1-yl)piperidin-4-yl)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide Dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCN1CCC(CC1)CCCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C27H32N4OS.2ClH/c32-27(24-19-23-20-29-25-11-4-12-26(33-24)31(23)25)28-15-5-9-22-13-17-30(18-14-22)16-6-10-21-7-2-1-3-8-21;;/h1-4,7-8,11-12,19-20,22H,5-6,9-10,13-18H2,(H,28,32);2*1H
